US06387942B2
To a mixture of 4-methylbenzophenone (25 g, 0.127 mole) with HOAc (130 mL) was added successively CrO3 (35 g), H2O (80 mL) and conc. H2SO4 (25 mL). The mixture was heated for 3 hours at 100±5° C. and then quenched by adding ice water (500 mL) to yield a crude 4-benzoylbenzoic acid solid which was dissolved in a 10% KOH solution and filtered. The filtrate was acidified with diluted HCl to pH 2.0 and precipitate by subjected to ice bath. The precipitate was collected to obtain 21.3 g 4-benzoylbenzoic acid in a yield of 74.1%.

reactant | 4-methylbenzophenone | 0.127 mole, 25 g | CC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H12O
reactant | HOAc | 130 mL | CC(=O)O | C2H4O2
reactant | H2SO4 | 25 mL | OS(=O)(=O)O | H2O4S
solvent | H2O | 80 mL | O | H2O
product | 4-benzoylbenzoic acid | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)O)C=C1 | C14H10O3
